US04172198
To crystals (10 g) of 2 -(4-oxo-6-hydroxymethyl-1,4-dihydropyridin-3-yloxy)acetic acid was added thionyl chloride (25 ml), and the mixture was stirred for 30 minutes. After cooling, dimethylformamide (125 ml) was added to the reaction mixture, and the resultant mixture was stirred for an hour. The resultant mixture was poured into cold water (750 ml) and the aqueous solution was adjusted to pH 3 with an aqueous sodium bicarbonate solution and then cooled with ice for 2 hours. Precipitated crystals were collected by filtration and washed with water to give crystals (8.7 g) of 2-(4-oxo-6-chloromethyl-1,4-dihydropyridin-3-yloxy)acetic acid. (This product was converted to its hydrochloride monohydrate, m.p. 150° to 155° C. by recrystallizing from a mixture of 10% hydrochloric acid (5 ml) and water (5 ml).)

reactant | 2 -(4-oxo-6-hydroxymethyl-1,4-dihydropyridin-3-yloxy)acetic acid | 10 g | O=C1C(=CNC(=C1)CO)OCC(=O)O | C8H9NO5
reactant | thionyl chloride | 25 ml | S(=O)(Cl)Cl | Cl2OS
reactant | dimethylformamide | 125 ml | CN(C=O)C | C3H7NO
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | water | 750 ml | O | H2O
product | 2-(4-oxo-6-chloromethyl-1,4-dihydropyridin-3-yloxy)acetic acid | 8.7 g | O=C1C(=CNC(=C1)CCl)OCC(=O)O | C8H8ClNO4
